US07199147B2
A solution of 1-benzyl-4-azepanone (610 mg, 3.00 mmol) in diethyl ether (8 ml) was added to a suspension of lithium aluminum hydride (57 mg, 1.50 mmol) in diethyl ether (5 ml) at 0° C. and stirred for 1 hour. Water (0.057 ml), a 2N-aqueous sodium hydroxide solution (0.114 ml) and then water (0.171 ml) were added to the reaction mixture, and the resulting mixture was dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent. The resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate 1/1, chloroform/methanol=30/1) to obtain 1-benzyl-4-azepanol (516 mg, 84%).

reactant | 1-benzyl-4-azepanone | 3.00 mmol, 610 mg | C(C1=CC=CC=C1)N1CCC(CCC1)=O | C13H17NO
reactant | lithium aluminum hydride | 1.50 mmol, 57 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 0.057 ml | O | H2O
reactant | sodium hydroxide | 0.114 ml | [OH-].[Na+]
reactant | water | 0.171 ml | O | H2O
solvent | diethyl ether | 8 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | 1-benzyl-4-azepanol | 516 mg, 84% | C(C1=CC=CC=C1)N1CCC(CCC1)O | C13H19NO
